US04592866
2-[2-(Dimethylamino)ethyl]-4-ethyl-2,3-dihydropyrido[3,2-f][1,4]oxazepin-5(4H)-thione
2-(2-Chloroethyl)-4-ethyl-2,3-dihydropyrido[3,2-f][1,4]oxazepin-5(4H)-thione hydrochloride, 5.00 g (0.016 mole) was added to 20 ml of anhydrous dimethylamine. The reaction flask was sealed tightly and stirred at room temperature for 6 days. The flask was opened after cooling to 0° C. and dimethylamine allowed to evaporate at room temperature. The residue was taken up in chloroform (100 ml) and washed with dilute aqueous sodium hydroxide (1×30 ml). The chloroform layer was dried over sodium sulfate, filtered and concentrated by rotary evaporation. The residual oil was dissolved in hot cyclohexane. Upon cooling, 1.76 g (39.4%) of light yellow crystals were collected, m.p. 73° C.

reactant | 2-(2-Chloroethyl)-4-ethyl-2,3-dihydropyrido[3,2-f][1,4]oxazepin-5(4H)-thione hydrochloride | Cl.ClCCC1OC2=C(C(N(C1)CC)=S)C=CC=N2
reactant | dimethylamine | 20 ml | CNC | C2H7N
product | 2-[2-(Dimethylamino)ethyl]-4-ethyl-2,3-dihydropyrido[3,2-f][1,4]oxazepin-5(4H)-thione | CN(CCC1OC2=C(C(N(C1)CC)=S)C=CC=N2)C | C14H21N3OS
